US05821246
A mixture of 3-fluoro-4-nitrophenol (3.14 g), 2-pyridylmethyl chloride (3.28 g), potassium carbonate (5.52 g) and DMF (20 ml) was stirred at ambient temperature for 16 hours. The mixture was partitioned between ethyl acetate and water. The organic phase was washed with water, dried (MgSO4) and evaporated. The residue was purified by column chromatography using increasingly polar mixtures of hexane and ethyl acetate to give 3-fluoro-4-nitrophenyl 2-pyridylmethyl ether (0.86 g).

reactant | 3-fluoro-4-nitrophenol | 3.14 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | 2-pyridylmethyl chloride | 3.28 g | N1=C(C=CC=C1)CCl | C6H6ClN
reactant | potassium carbonate | 5.52 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-fluoro-4-nitrophenyl 2-pyridylmethyl ether | 0.86 g | N1=C(C=CC=C1)COC1=CC(=C(C=C1)[N+](=O)[O-])F | C12H9FN2O3
